US07994203B2
Step 2: 4-Bromo-N-methoxy-2,N-dimethyl-benzamide:
Triethylamine (1.3 ml, 10.04 mmol) is added to a stirred suspension of N,O-dimethylhydroxylamine hydrochloride (0.45 g, 4.6 mmol) in toluene (15 ml). After 30 minutes at RT the solution is cooled to 0° C. and a solution of 4-bromo-2-methylbenzoyl chloride (0.977 g, 4.81 mmol) in toluene (5 ml) is slowly added. The reaction is stirred at RT for 2 h at 0° C. and then diluted with ethyl acetate. The mixture is washed with 0.1M aq. HCl solution followed by brine. The organic extract is separated, dried over (MgSO4) and concentrated in vacuo to afford a colourless oil. Purification by chromatography on silica, eluting with ethyl acetate:iso-hexane (1:1) yields the title product as a colourless oil. MS m/z 258.0 [M+H]+1H NMR (400 MHz, CDCl3) δ 2.32 (3H, s), 3.0 (3H, br s), 3.50 (3H, br s), 7.15 (1H, d), 7.35 (1H, d), 7.37 (1H, s).

reactant | Triethylamine | 10.04 mmol, 1.3 ml | C(C)N(CC)CC | C6H15N
reactant | N,O-dimethylhydroxylamine hydrochloride | 4.6 mmol, 0.45 g | Cl.CNOC
reactant | 4-bromo-2-methylbenzoyl chloride | 4.81 mmol, 0.977 g | BrC1=CC(=C(C(=O)Cl)C=C1)C | C8H6BrClO
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Bromo-N-methoxy-2,N-dimethyl-benzamide | BrC1=CC(=C(C(=O)N(C)OC)C=C1)C | C10H12BrNO2
